US08975400B2
4-(3-chloro-4-fluorophenoxy)benzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 4-fluorobenzaldehyde and 3-chloro-4-fluorophenol.

reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 3-chloro-4-fluorophenol | ClC=1C=C(C=CC1F)O | C6H4ClFO
product | 4-(3-chloro-4-fluorophenoxy)benzaldehyde | ClC=1C=C(OC2=CC=C(C=O)C=C2)C=CC1F | C13H8ClFO2
